US06781004B2
Reaction of the phosphonium salt with decanal to give ethyl cis-6-hexadecenoate

reactant | phosphonium | [PH4+]
reactant | decanal | C(CCCCCCCCC)=O | C10H20O
product | ethyl cis-6-hexadecenoate | C(CCCC\C=C/CCCCCCCCC)(=O)OCC | C18H34O2
